US08487109B2
N-[2-(4-Amino-phenylethynyl)-phenyl]-acetamide
This product was prepared from toluene-4-sulfonic acid 2-acetylamino-phenyl ester and 4-ethynyl-phenylamine following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/EtOAc 9:1; yield (47 mg, 50%); 1H NMR δ (CDCl3): 8.39 (d, J=8.52 Hz, 1H), 7.9 (br s, 1H), 7.59-7.67 (m, 2H), 7.58-7.52 (m, 2H), 7.41-7.35 (m, 2H), 7.02 (t, J=7.21 Hz, 1H), 3.82 (b, 2H), 2.21 (s, 3H); LCMS m/z: 250.

reactant | toluene-4-sulfonic acid 2-acetylamino-phenyl ester | C(C)(=O)NC1=C(C=CC=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C15H15NO4S
reactant | 4-ethynyl-phenylamine | C(#C)C1=CC=C(C=C1)N | C8H7N
solvent | heptane EtOAc | CCCCCCC.CCOC(=O)C
product | N-[2-(4-Amino-phenylethynyl)-phenyl]-acetamide | NC1=CC=C(C=C1)C#CC1=C(C=CC=C1)NC(C)=O | C16H14N2O
